simulator lang=spectre
global 0

ahdl_include "./dut/sar_weighted_sum.va"

Vd10 (d10 0) vsource type=pwl wave=[0 0 6n 0 6.1n 0.9 75n 0.9]
Vd9 (d9 0) vsource type=pwl wave=[0 0 12n 0 12.1n 0.9 75n 0.9]
Vd8 (d8 0) vsource type=pwl wave=[0 0 18n 0 18.1n 0.9 75n 0.9]
Vd7 (d7 0) vsource type=pwl wave=[0 0 24n 0 24.1n 0.9 75n 0.9]
Vd6 (d6 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 75n 0.9]
Vd5 (d5 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 75n 0.9]
Vd4 (d4 0) vsource type=pwl wave=[0 0 42n 0 42.1n 0.9 75n 0.9]
Vd3 (d3 0) vsource type=pwl wave=[0 0 48n 0 48.1n 0.9 75n 0.9]
Vd2 (d2 0) vsource type=pwl wave=[0 0 54n 0 54.1n 0.9 75n 0.9]
Vd1 (d1 0) vsource type=pwl wave=[0 0 60n 0 60.1n 0.9 75n 0.9]
Vd0 (d0 0) vsource type=pwl wave=[0 0 66n 0 66.1n 0.9 75n 0.9]
XDUT (d10 d9 d8 d7 d6 d5 d4 d3 d2 d1 d0 vout) sar_weighted_sum

simulatorOptions options evas_profile=balanced

tran tran stop=75n maxstep=25p
save d10 d9 d8 d7 d6 d5 d4 d3 d2 d1 d0 vout
